US09376442B2
N-(1-Acetylpiperidin-4-yl)-4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-N-piperidin-4-yl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride from example D.f1 (486 mg; 1.0 mmol) and DBU (2.5 mmol) is dissolved in dry dichloromethane (5 mL). Acetyl chloride (1.1 mmol) is syringed into the reaction mixture at ice bath temperature. After addition the mixture is stirred at ambient temperature over night. Methanol (1 mL) is added and stirring is continued for two hours. The volatiles are evaporated. The residue is purified by reversed phase preparative HPLC. The collected product fraction is freeze-dried to yield the title compound as colorless solid.

reactant | 4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-N-piperidin-4-yl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2
reactant | DBU | 2.5 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | Acetyl chloride | 1.1 mmol | C(C)(=O)Cl | C2H3ClO
reactant | Methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(1-Acetylpiperidin-4-yl)-4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N1CCC(CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1)C | C26H29N5O5
